US07700625B2
A solution of 5-chloro-6-methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-1H-isoindole (600 mg) and anisole (0.3 ml) in trifluoroacetic acid (6 ml) was heated at 180° C. (50 W) for 40 minutes in a CEM discover microwave synthesiser. The reaction mixture was evaporated and re-evaporated with toluene. The crude material was partitioned between DCM and water, the aqueous layer washed with DCM (×3) then evaporated and re-evaporated with toluene to give 5-chloro-6-methoxy-2,3-dihydro-1H-isoindole (256 mg) as green crystals. MS: [M+H]+ 184.

reactant | 5-chloro-6-methoxy-2-(4-methoxy-benzyl)-2,3-dihydro-1H-isoindole | 600 mg | ClC=1C=C2CN(CC2=CC1OC)CC1=CC=C(C=C1)OC | C17H18ClNO2
reactant | anisole | 0.3 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-chloro-6-methoxy-2,3-dihydro-1H-isoindole | 256 mg | ClC=1C=C2CNCC2=CC1OC | C9H10ClNO
